US08445501B2
2-Bromo-5-fluoro-4-methoxy-phenol
3-Fluoro-4-methoxy-phenol (21.32 g; 0.15 mol) prepared according to literature [Freedman, J.; Stewart, K. T.; J. Heterocycl. Chem. 1989, 26, 1547-1554] is dissolved in dry dichloromethane (300 mL). The well stirred reaction mixture is cooled to −15° C. (ice/salt). A solution of bromine (23.97 g; 0.15 mol) in dry dichloromethane (75 mL) is slowly dropped into the reaction mixture. After complete addition stirring is continued for one hour. Water (150 mL) containing sodium sulfite (3.0 g) is added to the reaction mixture. Stirring is continued at ambient temperature for 30 min. The organic layer is separated, washed with water (100 mL) and dried over MgSO4 in the presence of decolorizing charcoal. After filtration the solvent is completely removed under reduced pressure. The residue is crystallized from tert-butylmethylether/hexane to give the title compound as a colorless solid. Yield: 30.74 g.

reactant | 3-Fluoro-4-methoxy-phenol | 0.15 mol, 21.32 g | FC=1C=C(C=CC1OC)O | C7H7FO2
reactant | bromine | 0.15 mol, 23.97 g | BrBr | Br2
reactant | Water | 150 mL | O | H2O
reactant | sodium sulfite | 3.0 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 2-Bromo-5-fluoro-4-methoxy-phenol | BrC1=C(C=C(C(=C1)OC)F)O | C7H6BrFO2
